US04336254
A mixture of 1.7 g (0.01 m) of 4,6-diamino-2-guanidinopyrimidine prepared as in Example 2, 0.9 g (0.01 m) of S-methylisothiourea and 150 ml of methanol is heated at reflux overnight. Evaporation of the volatiles gives 6-amino-2,4-diguanidinopyrimidine.

reactant | 4,6-diamino-2-guanidinopyrimidine | 1.7 g | NC1=NC(=NC(=C1)N)NC(=N)N | C5H9N7
reactant | S-methylisothiourea | 0.9 g | CSC(N)=N | C2H6N2S
solvent | methanol | 150 ml | CO | CH4O
product | 6-amino-2,4-diguanidinopyrimidine | NC1=CC(=NC(=N1)NC(=N)N)NC(=N)N | C6H11N9
